US04501697
(E) (±)-(cis)-[(3-Azido-2-oxo-4-azetidinyl)methoxy]acetic acid diphenylmethyl ester
A solution of (±)-(cis)-[(3-azido-2-oxo-4-azetidinyl)methoxy]acetic acid (0.880 g, 4.42 mmole) was treated with a solution of diphenyl diazomethane (858 mg, 4.42 mmole) in acetone (12 ml). The reaction was stirred at room temperature for nineteen hours and then combined with another run (621 mg acid, 3.12 mmole). The solvent was removed in vacuo and ethyl acetate was added and evaporated. The residue was dissolved in ethyl acetate (70 ml), dried (sodium sulfate), filtered, and concentrated to 2.6 g of a heavy yellow-red oil. The crude product was chromatographed on silica gel (230-400 mesh, 100 g) with 50% hexane-ethyl acetate. Concentration of the appropriate fractions and removal of solvents produced a heavy oil which was triturated with ether to produce a white solid which was filtered and dried to yield 1.34 g of the title compound. An additional 463 mg was obtained from the mother liquor. The total yield was 1.804 g.

reactant | (±)-(cis)-[(3-azido-2-oxo-4-azetidinyl)methoxy]acetic acid | 4.42 mmole, 0.880 g | N(=[N+]=[N-])[C@@H]1C(N[C@@H]1COCC(=O)O)=O | C6H8N4O4
reactant | diphenyl diazomethane | 4.42 mmole, 858 mg | C1(=CC=CC=C1)C(=[N+]=[N-])C1=CC=CC=C1 | C13H10N2
solvent | acetone | 12 ml | CC(=O)C | C3H6O
product | (±)-(cis)-[(3-Azido-2-oxo-4-azetidinyl)methoxy]acetic acid diphenylmethyl ester | 1.34 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(COC[C@@H]1[C@@H](C(N1)=O)N=[N+]=[N-])=O | C19H18N4O4
